US06465687B1
Methyl 3,5-dichloro-4-hydroxybenzoate (10 g) was coupled with bis(3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate (35 g) using the method described in Example 1a. Purification by column chromatography (silica gel, 95:5 light petroleum ether/ethylacetate) followed by recrystallization from methanol gave 8.42 g (51%) of methyl 3,5-dichloro-4-(4-methoxy-3-isopropylphenoxy)-benzoate.

reactant | Methyl 3,5-dichloro-4-hydroxybenzoate | 10 g | ClC=1C=C(C(=O)OC)C=C(C1O)Cl | C8H6Cl2O3
reactant | bis(3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate | 35 g | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
product | methyl 3,5-dichloro-4-(4-methoxy-3-isopropylphenoxy)-benzoate | 8.42 g, 51% | ClC=1C=C(C(=O)OC)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl | C18H18Cl2O4
